US08614322B2
A mixture of 2-cyanobenzo[h]quinoline (2.04 g, 10.0 mmol) and 10% palladium on carbon (0.40 g) in acetic acid (120 ml) was hydrogenated at ambient temperature, in a Parr reactor, with hydrogen gas at a pressure of 2 atm. After 4 hours, during which time absorbance of two hydrogen equivalents was observed, the reaction mixture was filtered and the solvent evaporated under reduced pressure. The oily residue was taken up with ethyl ether and the mixture washed with a 10% NaOH solution until an alkaline pH was achieved. The organic phase was then separated and dried over Na2SO4. The solvent was evaporated and the residue was purified by flash chromatography using MeOH as eluent. 1.87 g (90% yield) of 1-(benzo[h]quinolin-2-yl)methanamine in the form of a red solid was obtained.

reactant | 2-cyanobenzo[h]quinoline | 10.0 mmol, 2.04 g | C(#N)C1=NC2=C3C(=CC=C2C=C1)C=CC=C3 | C14H8N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1-(benzo[h]quinolin-2-yl)methanamine | 1.87 g, 90% yield | N1=C(C=CC2=CC=C3C(=C12)C=CC=C3)CN | C14H12N2
